US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(1H-INDOL-6-YLMETHYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 6-formylindole to the procedure of step 1, Example 66. MS (ESI) m/z 508.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 6-formylindole | C(=O)C1=CC=C2C=CNC2=C1 | C9H7NO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(1H-INDOL-6-YLMETHYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C2C=CNC2=C1)C(F)(F)F | C32H24F3N3
